US07960584B2
Step 2: 4-amino-3-fluoro-5-iodobenzonitrile
A 25 ml of two-neck round bottom flask was filled with argon gas and the solution of 4-amino-3-fluoro-benzonitrile (300 mg, 2.204 mmol, 1 equiv.) in methylenechloride was put into the flask. To the solution was added iodomonochloride (393.6 mg, 2.424 mmol, 1.1 equiv.) and stirred for 1 hour. After confirming the completion of the reaction with TLC, to resulting solution was added saturated sodium thiosulphate solution and stirred. The reaction solution was extracted with methylenechloride, washed with water(twice) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The obtained liquid was column-chromatographed (n-hexane/ethylacetate=3/1) to yield a brown liquid.

reactant | 4-amino-3-fluoro-benzonitrile | 2.204 mmol, 300 mg, 1 equiv. | NC1=C(C=C(C#N)C=C1)F | C7H5FN2
reactant | iodomonochloride | 2.424 mmol, 393.6 mg, 1.1 equiv. | ICl | ClI
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 4-amino-3-fluoro-5-iodobenzonitrile | NC1=C(C=C(C#N)C=C1I)F | C7H4FIN2
